US07335658B2
1-CYCLOHEXYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA
Following the procedure of Example 5, making variations only as required to use cyclohexylisocyanate in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone, the title compound was obtained as white powder (34% yield). 1H NMR (300 MHz, DMSO-d6) δ 9.05, 7.82, 7.74, 7.65, 7.55, 7.52, 7.35, 3.69-3.79, 3.44-3.58, 3.35-3.42, 3.20-3.26, 3.11-3.18, 1.75-1.84, 1.58-1.67, 1.47-1.55, 1.10-1.35.

reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-CYCLOHEXYL-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA | C1(CCCCC1)NC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H27F3N6O2
